US04567187
2.0 Grams of 6-{1-oxo-4-[4-(4-ethoxy-carbonylphenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril and 0.6 g of sodium hydroxide were mixed in 70 ml of methanol and refluxed by heating for 2 hours. To the reaction mixture was added 5 ml of concentrated hydrochloric acid and the mixture was concentrated under a reduced pressure to dryness. The residue was recrystallized from ethanol-water to obtain 0.6 g of 6-{1-oxo-4-[4-(4-carboxyphenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril monohydrochloride in colorless needle-like crystals.

reactant | 6-{1-oxo-4-[4-(4-ethoxy-carbonylphenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril | O=C(CCCN1CCN(CC1)C1C(C=C(C=C1)OCC)=C=O)C=1C=C2CCC(NC2=CC1)=O | C26H31N3O4
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 6-{1-oxo-4-[4-(4-carboxyphenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril monohydrochloride | 0.6 g | Cl.O=C(CCCN1CCN(CC1)C1=CC=C(C=C1)C(=O)O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C24H27N3O4.ClH/c28-22(19-5-9-21-18(16-19)6-10-23(29)25-21)2-1-11-26-12-14-27(15-13-26)20-7-3-17(4-8-20)24(30)31;/h3-5,7-9,16H,1-2,6,10-15H2,(H,25,29)(H,30,31);1H
